US04760163
A solution of 1.50 g of isopropyl 2-chloro-4-fluoro-5-[3,6-dihydro-4methyl-2,6-dioxo-1-(2H)-pyrimidinyl]-benzoate in 30 ml of methylene chloride at room temperature is treated with stirring with 2.0 ml of 100% nitric acid. The solution is then treated with 5 drops of concentrated sulphuric acid and stirred for 48 hours at room temperature. The reaction mixture is poured into 150 ml of ice/water, diluted with 100 ml of ethyl acetate and washed four times with 150 ml of water. The organic phase is dried over anhydrous sodium sulphate and evaporated to dryness under reduced pressure. The residue is recrystallized from diethyl ether. Isopropyl 2-chloro-4-fluoro-5-[3,6-dihydro-4-methyl-5-nitro-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate, m.p. 202°-205° C., is obtained.

reactant | isopropyl 2-chloro-4-fluoro-5-[3,6-dihydro-4methyl-2,6-dioxo-1-(2H)-pyrimidinyl]-benzoate | 1.50 g | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(NC(=CC1=O)C)=O | C15H14ClFN2O4
reactant | nitric acid | 2.0 ml | [N+](=O)(O)[O-] | HNO3
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
catalyst | sulphuric acid | 5 drops | S(O)(O)(=O)=O | H2O4S
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | Isopropyl 2-chloro-4-fluoro-5-[3,6-dihydro-4-methyl-5-nitro-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(NC(=C(C1=O)[N+](=O)[O-])C)=O | C15H13ClFN3O6
